US07259175B2
3-(2-Methyl-4-{[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-carbamoyl}-phenyl)-propionic acid
To a solution of 3-(2-methyl-4-{[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-carbamoyl}-phenyl)-propionic acid ethyl ester (70 mg) in enthanol (1 mL) is added NaOH (5.0 N, 1.0 mL), the mixture is heated at 50° C. for 2 hrs, acidified with 5 N HCl, extracted with ethyl acetate, dried over sodium sulfate. Concentration gave the title compound (70 mg).

reactant | 3-(2-methyl-4-{[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-carbamoyl}-phenyl)-propionic acid ethyl ester | 70 mg | C(C)OC(CCC1=C(C=C(C=C1)C(NCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)=O)C)=O | C25H25F3N2O4
reactant | NaOH | 5.0 N, 1.0 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
product | 3-(2-Methyl-4-{[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-carbamoyl}-phenyl)-propionic acid | 70 mg | CC1=C(C=CC(=C1)C(NCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)=O)CCC(=O)O | C23H21F3N2O4
